US05166026
A one liter, three necked flask equipped with mechanical stirrer, reflux condenser, argon inlet and addition funnel was heated in an oil bath at 50° C. To the flask was added methylene chloride (400 milliliters), undecylenol (100 grams) and pyridine (55.7 grams). Thionyl chloride (78.9 grams) in methylene chloride (100 milliliters) was added dropwise under reflux over five hours. The mixture was filtered, the solvent was removed from the filtrate using a rotary evaporator, and the resultant oil was refiltered and then distilled using a packed column to yield two fractions. A fraction collected between 100° and 110° C. and about 1 millimeter of mercury was redistilled to yield 40 grams of undecylenyl chloride as an oil obtained at 80° to 85° C. at about 1 millimeter of mercury.

reactant | pyridine | 55.7 grams | N1=CC=CC=C1 | C5H5N
reactant | Thionyl chloride | 78.9 grams | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 100 milliliters | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 400 milliliters | C(Cl)Cl | CH2Cl2
product | undecylenyl chloride | 40 grams | C(CCCCCCCCC=C)Cl | C11H21Cl
